datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][C:11](C)=[CH2:10]>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O+:12]=[C:11](C)[CH2:10][CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:63]([NH:12][C:11](C1=CC=C(Cl)C=C1)=[CH2:10])=[O:64].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>C[C:63]([NH+:12]=[C:11](C1=CC=C(Cl)C=C1)[CH2:10][Cl:20])=[O:64].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.C1C[C:20](=[O:21])CCO1>>C1CC[C:11](=[N+:12]2CCCC2)[CH:10]([C:20]2([O-:21])CCOCC2)C1 10,11=10,20;12=11,12;20,21=21"
"C1C[C:18]2=[C:19]3[C:68](=[CH:67][C:16]([CH:15]=[C:14]4[CH:10]=[CH:11][CH:12]=[CH:13]4)=[CH:17]2)CCC[N:220]3C1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C1C[C:18]2=[CH:17][C:16](=[CH:15][C:14]3=[CH:13][CH:12]=[CH:11][CH:10]3[C:20]([C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]3)[CH:67]=[C:68]3CCC[N+:220](=[C:19]23)C1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;18,19=17,18;220=19,220"
"CCCC[O:72][C:11](=[CH2:10])[O:12][Si:63](C)(C)C(C)(C)C.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32]>>CCCC[O:72][C:11]([CH2:10][CH:20]([C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])[C:31](=[O:32])[O:33]CC)=[O+:12][Si:63](C)(C)C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)C[Si:11](C)(C)[H:10].C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>CC(C)(C)C[Si+:11](C)C.C[Si](C)(C)C12[C:31]3([CH2:20][H:10])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.CC[O:12][C:11](=[CH:10]C)[O:62]CC>>CC[O+:12]=[C:11]([CH:10](C)[CH2:20][C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[O:62]CC 10,11=10,20;12=11,12;20,21=21"
"CC[O:82][C:71]([C-:10]1CCCCCC[C:62]1=[O:61])=[O:72].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC[O:82][C:71]([C:10]1([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2C(C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCCCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([C:10]3=[N+:71](C)[CH:73]=[CH:72][N:61]3[C:62]3=[C:63](C)[CH:64]=[C:65](C)[CH:66]=[C:67]3C)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10=20
"C[C:63]([O:62][B-:11]([H:10])([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[C:63]([O:62][B:11]([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64].[H:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:11]1=[CH:10]C2=C(C=CC=C2)[N:12]1C>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2C3=C(C=CC=C3)[N+:12](C)=[C:11]2C)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1CCC[C:20](=[O:21])CC1.CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[C:20]3([O-:21])CCCCCC3)=[O:12])[N:66](C3=C(C)C=C(C)C=C3C)[CH:65]=[CH:64]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21"
"C1C[O:72][C:11]([O-:12])=[N:10]1.C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][N:10]1CC[O:72][C:11]1=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC[O:72]1>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]2CC[O:72][C:11]2=[O+:12][Si:63](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
